US05670503
To a mixture of 7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine (100 mg, 0.339 mmol) and pyridine (54 mg, 0.678 mmol) in N-methyl-2-pyrrolidone (1.5 ml) was added acetoxyacetyl chloride (60 mg, 0.441 mmol) in N-methyl-2-pyrrolidone (0.5 ml) under nitrogen atmosphere with ice cooling. After stirring for 30 minutes, the reaction mixture was diluted with an aqueous saturated sodium bicarbonate solution, then extracted with ethyl acetate. The organic phase was washed with water and brine, dried over sodium sulfate, and concentrated in vacuo. The residue was purified by chromatography on silica gel (eluent:dichloromethane/methanol; 100/1~20/1) and the obtained amorphous product was crystallized from diisopropyl ether to give 2-acetoxyacetyl-7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo-[5,1-c][1,2,4]triazine (76 mg).

reactant | 7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine | 0.339 mmol, 100 mg | FC1=CC=C(C=C1)C1=NN2C(NNCC2)=C1C1=CC=NC=C1 | C16H14FN5
reactant | pyridine | 0.678 mmol, 54 mg | N1=CC=CC=C1 | C5H5N
reactant | acetoxyacetyl chloride | 0.441 mmol, 60 mg | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | N-methyl-2-pyrrolidone | 1.5 ml | CN1C(CCC1)=O | C5H9NO
solvent | N-methyl-2-pyrrolidone | 0.5 ml | CN1C(CCC1)=O | C5H9NO
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-acetoxyacetyl-7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo-[5,1-c][1,2,4]triazine | 76 mg | C(C)(=O)OCC(=O)N1NCCN2C1=C(C(=N2)C2=CC=C(C=C2)F)C2=CC=NC=C2 | C20H18FN5O3
